US06329381B1
3-(6-Amino-9-benzyl-2-purinyl)thio-1-propanol
Sodium hydride (600 mg, 15 mmol 60% in mineral oil) were added DMF (10 ml), 3-mercapto-1-propanol (1 ml, 12 mmol) and 6-amino-9-benzyl-2-chloropurine (200 mg, 0.77 mmol) in order. The mixture was stirred at 100° C. for 2 hours. After addition of saturated brine the reaction mixture was extracted with ethyl acetate. The organic layer was dried on magnesium sulfate and the solvent was removed in vacuo. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (30 mg, yield 12%).

reactant | Sodium hydride | 15 mmol, 600 mg | [H-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 3-mercapto-1-propanol | 12 mmol, 1 ml | SCCCO | C3H8OS
reactant | 6-amino-9-benzyl-2-chloropurine | 0.77 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
solvent | brine | [Cl-].[Na+].O
product | 3-(6-Amino-9-benzyl-2-purinyl)thio-1-propanol | 30 mg, yield 12% | NC1=C2N=CN(C2=NC(=N1)SCCCO)CC1=CC=CC=C1 | C15H17N5OS
